US04558043
A mixture of 9.98 g (50 mmole) of 1-(3-amino-4-chlorophenoxy)-2-propanone, 22.9 g (0.10 mole) of 1,5-dibromopentane, 12.9 g (0.10 mole) of N-ethyldiisopropylamine and 60 ml of ethanol is boiled under reflux for 18 hours. The residue obtained after concentration by evaporation in vacuo is taken up in methylene chloride and washed twice with dilute sodium bicarbonate solution. The organic phase is dried, concentrated by evaporation and the crude product is taken up in 250 ml of ethanol, 40 ml of concentrated hydrochloric acid are added and the whole is boiled under reflux for 30 hours. The ethanol is concentrated in a vacuum rotary evaporator and the residue is diluted with ice-water, rendered alkaline with 6N sodium hydroxide solution and extracted with methylene chloride. The organic phases are washed with water, combined, dried over sodium sulphate and concentrated in a vacuum rotary evaporator. Chromatography over silica gel using chloroform as eluant yields 5-chloro-3-methyl-6-(piperidin-1-yl)-benzofuran which, after recrystallisation from petroleum ether, melts at 82°-84°.

reactant | 1-(3-amino-4-chlorophenoxy)-2-propanone | 50 mmole, 9.98 g | NC=1C=C(OCC(C)=O)C=CC1Cl | C9H10ClNO2
reactant | 1,5-dibromopentane | 0.10 mole, 22.9 g | BrCCCCCBr | C5H10Br2
reactant | N-ethyldiisopropylamine | 0.10 mole, 12.9 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-chloro-3-methyl-6-(piperidin-1-yl)-benzofuran | ClC=1C(=CC2=C(C(=CO2)C)C1)N1CCCCC1 | C14H16ClNO
